US07868012B2
To a solution of 1-benzyloxypropanesulfamic acid[6-(2-hydroxyethoxy)-5-(4-bromophenyl)-pyrimidin-4-yl]-amide (237 mg, 0.441 mmol) in THF (10 mL) is added NaH (58 mg, 60% dispersion in mineral oil, 1.32 mmol). The mixture is stirred for 5 min before 2-chloro-5-bromopyrimidine (128 mg, 0.662 mmol) is added. The reaction mixture is stirred at 60° C. for 2 h, diluted with 10% aq. citric acid solution (75 mL) and extracted with EA (75 mL). The organic extract is washed twice with water (2×50 mL) and concentrated. The remaining residue is purified on prep. tlc plates (silica gel, heptane/EA 1:1) to afford 1-benzyloxypropanesulfamic acid[6-(2-(5-bromopyrimid-2-yloxy)-ethoxy)-5-(4-bromophenyl)-pyrimidin-4-yl]-amide (283 mg) as a colourless foam. LC-MS: tR=1.09 min, [M+H]+=693.12; 1H NMR (CDCl3): δ 8.48 (s, 2H), 8.34 (s, 1H), 7.58-7.53 (m, 2H), 7.38-7.28 (m, 5H), 7.16-7.11 (m, 2H), 6.84 (s, 1H), 5.97 (t, J=5.9 Hz, 1H), 4.73-4.68 (m, 2H), 4.64-4.60 (m, 2H), 4.50 (s, 2H), 3.56 (t, J=5.9 Hz, 2H), 3.17 (q, J=6.4 Hz, 2H), 1.88 (p, J=5.9 Hz, 2H).

reactant | 1-benzyloxypropanesulfamic acid[6-(2-hydroxyethoxy)-5-(4-bromophenyl)-pyrimidin-4-yl]-amide | 0.441 mmol, 237 mg | OCCOC1=C(C(=NC=N1)NS(NC(CC)OCC1=CC=CC=C1)(=O)=O)C1=CC=C(C=C1)Br | C22H25BrN4O5S
reactant | NaH | 1.32 mmol, 58 mg | [H-].[Na+]
reactant | 2-chloro-5-bromopyrimidine | 0.662 mmol, 128 mg | ClC1=NC=C(C=N1)Br | C4H2BrClN2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | citric acid | 75 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 1-benzyloxypropanesulfamic acid[6-(2-(5-bromopyrimid-2-yloxy)-ethoxy)-5-(4-bromophenyl)-pyrimidin-4-yl]-amide | 283 mg | BrC=1C=NC(=NC1)OCCOC1=C(C(=NC=N1)NS(NC(CC)OCC1=CC=CC=C1)(=O)=O)C1=CC=C(C=C1)Br | C26H26Br2N6O5S
